US05350762
1,2,3,4-Tetrahydro-4-methyl-7-methoxy-N-ethylcyclopent[b]indole-2-carboxylic acid amide
In a 50 ml sealed tube was dissolved 1,2,3,4-tetrahydro-4-methyl-7-methoxycyclopent[b]indole-2-carboxylic acid ethyl ester (2.8 g, 0.01 mole)in 25 ml of ethanol. To this was added an aqueous solution of ethylamine (70% solution, 5 ml, 0.075 mole). After stirring at 90° C. for five days, the mixture was concentrated to a brown solid, (~3 g) which was eluted on a silica gel column with ethyl acetate/dichloromethane (1:2) via HPLC. The desired fractions were combined to yield 1.3 g of a white solid, m.p. 162°-3° C. A sample of this material (0.5 g) was recrystallized from ethyl acetate/ether (1:10) to give the product as white crystals, 0.4 g, m.p. 163°-4° C.

reactant | 1,2,3,4-tetrahydro-4-methyl-7-methoxycyclopent[b]indole-2-carboxylic acid ethyl ester | 0.01 mole, 2.8 g | C(C)OC(=O)C1CC2=C(N(C=3C=CC(=CC23)OC)C)C1 | C16H19NO3
reactant | ethylamine | 0.075 mole, 5 ml | C(C)N | C2H7N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-4-methyl-7-methoxy-N-ethylcyclopent[b]indole-2-carboxylic acid amide | 1.3 g | CN1C2=C(C=3C=C(C=CC13)OC)CC(C2)C(=O)NCC | C16H20N2O2
